US08623444B2
(Stearin Part of Transesterified Oil)
The stearin part of transesterified oil can be obtained by transesterifying a raw oil-and-fat containing 10 to 40% by mass of oleic acid, 10 to 40% by mass of stearic acid and 30 to 70% by mass of palmitic acid, and then fractionating it so as to obtain an olein part, and further fractionating the olein part. It is preferable to use a raw oil-and-fat containing 10 to 35% by mass of oleic acid, 15 to 40% by mass of stearic acid and 35 to 65% by mass of palmitic acid, and it is more preferable to use a raw oil-and-fat containing 10 to 30% by mass of oleic acid, 15 to 35% by mass of stearic acid and 35 to 55% by mass of palmitic acid.

reactant | olein | CCCCCCCC/C=C\CCCCCCCC(=O)OCC(OC(=O)CCCCCCC/C=C\CCCCCCCC)COC(=O)CCCCCCC/C=C\CCCCCCCC | C57H104O6
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | palmitic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
product | Stearin | CCCCCCCCCCCCCCCCCC(=O)OCC(COC(=O)CCCCCCCCCCCCCCCCC)OC(=O)CCCCCCCCCCCCCCCCC | C57H110O6
